US06818767B2
3.67 g (11.8 mmol) of 3-(3-benzyloxy-phenylamino)-but-2-enoic acid ethyl ester were added dropwise within 20 minutes to 5.5 ml of Dowtherm A heated at 250° C. (metal bath temperature). The solution was stirred further 10 minutes at 250° C. (bath temperature), cooled to RT and then treated with 20 ml of heptane. The brown viscous oil that had formed was isolated and triturated with 45 ml of AcOEt. The brown solid obtained was filtered off by suction, washed with AcOEt and dried in a high vacuum to give 1.19 g (35%) of 7-benzyloxy-2-methyl-quinolin-4-ol. ISP mass spectrum, m/e: 266.3 (M+1 calculated for C17H15NO2: 266).

reactant | 3-(3-benzyloxy-phenylamino)-but-2-enoic acid ethyl ester | 11.8 mmol, 3.67 g | C(C)OC(C=C(C)NC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C19H21NO3
reactant | Dowtherm A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | heptane | 20 ml | CCCCCCC | C7H16
product | 7-benzyloxy-2-methyl-quinolin-4-ol | 1.19 g, 35% | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(=NC2=C1)C)O | C17H15NO2
